US04198409
Preparation of 1-(2',6'-diethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one
The same procedure was followed as in Example 1 above using 1-(2,6-diethylphenyl)-3-methylamidinourea as the starting material and using as the recrystallization medium a mixed solvent of pentanone and hexane (30:10).

reactant | 1-(2,6-diethylphenyl)-3-methylamidinourea | C(C)C1=C(C(=CC=C1)CC)NC(=O)NC(NC)=N | C13H20N4O
reactant | pentanone | CC(CCC)=O | C5H10O
solvent | hexane | CCCCCC | C6H14
product | 1-(2',6'-diethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one | C(C)C1=C(C(=CC=C1)CC)N1C(N=C(N=C1)NC)=O | C14H18N4O
